US08445684B2
1-Iodo-3-(3-phenylpropoxy)benzene
In a 100 mL round-bottom flask was placed 3-phenyl-1-propanol (2.00 g, 14.7 mmol, 1.5 equiv.), 3-iodophenol (2.16 g, 9.82 mmol) , triphenylphosphine (3.85 g, 14.7 mmol, 1.5 equiv.) and THF (40 mL). The mixture was stirred in a small ice bath. Neat diethyl azodicarboxylate (2.30 mL, 14.6 mmol, 1.5 equiv.) was added over a period of 30 min. The mixture was stirred in the ice bath for 20 h, then the bath was removed, and stirring was continued for 24 h at room temperature. The resulting mixture was concentrated under vacuum and diluted with EtOAc (200 mL). The solution was washed with brine (60 mL) and dried over Na2SO4. After evaporation, the residue was chromatographed on silica gel with EtOAc/petroleum ether 1:50. This resulted in 3.30 g (99%) of 1-iodo-3-(3-phenylpropoxy)benzene as light-yellow oil. 1H NMR (CDCl3, TMS, 300 MHz) δ 7.34-7.25 (m, 7H), 6.98 (t, 1H, J=8.0 Hz), 6.84 (dd, 1H, J=2.0, 8.2 Hz), 3.92 (t, 2H, J=6.5 Hz), 2.79 (t, 2H, J=7.7 Hz), 2.08 (m, 2H).

reactant | 3-phenyl-1-propanol | 14.7 mmol, 2.00 g, 1.5 equiv. | C1(=CC=CC=C1)CCCO | C9H12O
reactant | 3-iodophenol | 9.82 mmol, 2.16 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | triphenylphosphine | 14.7 mmol, 3.85 g, 1.5 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 14.6 mmol, 2.30 mL, 1.5 equiv. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Iodo-3-(3-phenylpropoxy)benzene | IC1=CC(=CC=C1)OCCCC1=CC=CC=C1 | C15H15IO
